US09447074B2
Intermediate 10: 1,1-dimethylethyl 7-(3-{[(4-methyl-2-pyridinyl)methyl]oxy}-2-pyridinyl)-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate
To a degassed mixture of 2-bromo-3-{[(4-methyl-2-pyridinyl)methyl]oxy}pyridine (2.83 g), 1,1-dimethylethyl 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate (4.54 g) and cesium carbonate (9.9 g) in dioxane:water (4:1, 40 ml) was added PdCl2.dppf (0.828 g). The reaction mixture was heated at 120° C. overnight. The reaction mixture was added to water and extraction was carried out with ethyl acetate. The organic layer was dried over sodium sulphate and the filtrate was concentrated in vacuo. The crude product was purified through silica, eluting with 0-40% ethyl acetate in hexane. Appropriate fractions were concentrated in vacuo to yield the title compound, 3.8 g (84%).

reactant | 2-bromo-3-{[(4-methyl-2-pyridinyl)methyl]oxy}pyridine | 2.83 g | BrC1=NC=CC=C1OCC1=NC=CC(=C1)C | C12H11BrN2O
reactant | 1,1-dimethylethyl 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 4.54 g | CC1(OB(OC1(C)C)C1=CC2=C(CCN(CC2)C(=O)OC(C)(C)C)C=C1)C | C21H32BNO4
reactant | cesium carbonate | 9.9 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | dioxane water | 40 ml | O1CCOCC1.O
catalyst | PdCl2 | Cl[Pd]Cl
catalyst | dppf | 0.828 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1,1-dimethylethyl 7-(3-{[(4-methyl-2-pyridinyl)methyl]oxy}-2-pyridinyl)-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | CC1=CC(=NC=C1)COC=1C(=NC=CC1)C1=CC2=C(CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C27H31N3O3
